US05138069
A solution of 5.83 g of N-(4-benzyloxybenzyl)-glycine ethyl ester, 0.86 mL of formic acid, and 20 mL of xylene was refluxed for 2 hours using a Dean-Stark trap to remove the water produced in the reaction. After cooling, the reaction mixture was washed with 20% aqueous formic acid, water, saturated sodium bicarbonate solution, water, and brine. Finally the mixture was dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated to furnish 6.23 g of crude N-(4-benzyloxybenzyl)-N-formyl glycine ethyl ester, used in the following reaction without further purification.

reactant | N-(4-benzyloxybenzyl)-glycine ethyl ester | 5.83 g | C(C)OC(CNCC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C18H21NO3
reactant | formic acid | 0.86 mL | C(=O)O | CH2O2
solvent | xylene | 20 mL | C=1(C(=CC=CC1)C)C | C8H10
product | N-(4-benzyloxybenzyl)-N-formyl glycine ethyl ester | 6.23 g | C(C)OC(CN(C=O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C19H21NO4
